US07312241B2
(4-bromo-2-methoxyphenoxy)-tert-butyldimethylsilane (4.37 g, 13.77 mmol), n-butyl lithium (5.51 ml, 13.77 mmol), and 3,5-dimethoxybenzaldehyde (2.08 g, 12.52 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified via flash column chromatography (5% EtOAc in hexane gradient to 20% EtOAc in hexane in about 40 min.) to give [4-(tert-butyl-dimethyl-silanyloxy)-3-methoxy-phenyl]-(3,5-dimethoxy-phenyl)-methanol a clear oil (3.94 g, 78%): 1HNMR (CDCl3) δ 6.89 (s, wide, 1H, Ar), 6.78 (s, wide, 2H, Ar), 6.53 (d, J=2 Hz, 2H, Ar), 6.36 (t, J=2 Hz, 1H, Ar), 5.69 (d, J=3 Hz, 1H, CHOH), 3.77 (s, 3H, OCH3), 3.76 (s, 6H, 2OCH3), 2.19 (d, J=3 Hz, 1H, OH), 0.98 (s, 9H, 3CH3), 0.14 (s, 6H, 2CH3). The product was carried over to the next step.

reactant | (4-bromo-2-methoxyphenoxy)-tert-butyldimethylsilane | 13.77 mmol, 4.37 g | BrC1=CC(=C(O[Si](C)(C)C(C)(C)C)C=C1)OC | C13H21BrO2Si
reactant | n-butyl lithium | 13.77 mmol, 5.51 ml | C(CCC)[Li]
reactant | 3,5-dimethoxybenzaldehyde | 12.52 mmol, 2.08 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
product | [4-(tert-butyl-dimethyl-silanyloxy)-3-methoxy-phenyl]-(3,5-dimethoxy-phenyl)-methanol | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C(O)C1=CC(=CC(=C1)OC)OC)OC)(C)C | C22H32O5Si
